US08604038B2
Step B: Tert-butyl (2R,5S)-2-(4-{[(6-aminopyridin-2-yl)methyl](methyl)carbamoyl}benzyl)-5-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(phenyl)methyl]-pyrrolidine-1-carboxylate
In a round bottom flask was added CuI (0.54 mg, 2.8 μmol, 0.1 equivalents), Cs2CO3 (18.3 mg, 0.056 mmol, 2 equivalents), and tert-butyl (2R,5S)-2-(4-{[(6-bromopyridin-2-yl)methyl](methyl)carbamoyl}benzyl)-5-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(phenyl)methyl]-pyrrolidine-1-carboxylate (20 mg, 0.028 mmol). The flask was evacuated and backfilled with nitrogen (3×) and then 2,4-pentadione (1.69 mg, 0.017 mmol, 0.6 equivalents), DMF (141 μL) and ammonium hydroxide (19.6 μL, 0.141 mmol, 5 equivalents) was added. The contents were transferred to a sealed tube under positive nitrogen pressure. The reaction was stirred and heated at 90° C. for 16 hours. The reaction was cooled and filtered over celite and washed with EtOAc. The EtOAc was washed with water and the aqueous layer was extracted with. EtOAc (3×). The organic extracts were then dried over Na2SO4, filtered, and concentrated in vacuo to afford the crude product (19 mg) that was taken directly onto the next step. LC-MS=646.3 (M+H)+.

reactant | Cs2CO3 | 0.056 mmol, 18.3 mg, 2 equivalents | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | tert-butyl (2R,5S)-2-(4-{[(6-bromopyridin-2-yl)methyl](methyl)carbamoyl}benzyl)-5-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(phenyl)methyl]-pyrrolidine-1-carboxylate | 0.028 mmol, 20 mg | BrC1=CC=CC(=N1)CN(C(=O)C1=CC=C(C[C@@H]2N([C@@H](CC2)[C@@H](C2=CC=CC=C2)O[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)C=C1)C | C37H50BrN3O4Si
reactant | 2,4-pentadione | 0.017 mmol, 1.69 mg, 0.6 equivalents | CC(=O)CC(=O)C | C5H8O2
reactant | ammonium hydroxide | 0.141 mmol, 19.6 μL, 5 equivalents | [OH-].[NH4+]
catalyst | CuI | 2.8 μmol, 0.54 mg, 0.1 equivalents | [Cu]I
solvent | DMF | 141 μL | CN(C)C=O | C3H7NO
product | Tert-butyl (2R,5S)-2-(4-{[(6-aminopyridin-2-yl)methyl](methyl)carbamoyl}benzyl)-5-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(phenyl)methyl]-pyrrolidine-1-carboxylate | 19 mg | NC1=CC=CC(=N1)CN(C(=O)C1=CC=C(C[C@@H]2N([C@@H](CC2)[C@@H](C2=CC=CC=C2)O[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)C=C1)C | C37H52N4O4Si
